US09340556B2
To a solution of 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde (15 g, 30.5 mmol) in 1,2-Dichloroethane (DCE) (100 mL) was added pyrrolidine (3.78 mL, 45.8 mmol), sodium triacetoxyborohydride (12.94 g, 61.0 mmol) and AcOH (0.087 mL, 1.526 mmol). The reaction mixture was stirred at 25° C. for 3 h. LCMS showed completion of the reaction. The mixture was extracted with DCM and washed with brine. The organic solution was dried over sodium sulfate and evaporated in vacuo. The crude material was purified by normal phase automatic silica column chromatography (Combiflash RF), using a 40 g golden column and eluting with MeOH/DCM (0-20%). The product was further purified with reverse phase automatic silica column chromatography (Combiflash RF), using a 150 g golden column and eluting with acetonitrile/water (0-60%) to afford 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one (9.8 g, 17.93 mmol, 58.7% yield) as a yellow solid. LCMS: (M+H)+: 547.4.

reactant | 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 30.5 mmol, 15 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)F)=O)C=O | C28H26FNO6
reactant | pyrrolidine | 45.8 mmol, 3.78 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 61.0 mmol, 12.94 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-Dichloroethane | 100 mL | ClCCCl | C2H4Cl2
catalyst | AcOH | 1.526 mmol, 0.087 mL | CC(=O)O | C2H4O2
product | 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one | 17.93 mmol, 9.8 g, 58.7% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)F)=O)CN1CCCC1 | C32H35FN2O5
